US07119115B2
0.677 g of 1-hydroxybenzotriazole hydrate, 0.958 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 1.16 g of 2-chloroethylamine hydrochloride and 1.4 cm3 of triethylamine are successively added to a solution of 1.8 g of 6,6-diphenyl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazole-3-carboxylic acid in 300 cm3 of dichloromethane. After stirring the reaction mixture for about 4 hours at a temperature in the region of 20° C., it is washed with three times 60 cm3 of water, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (13 kPa). After flash chromatography on a column of silica [eluent: cyclohexane/ethyl acetate (85/15 by volume)], 1.2 g of 6,6-diphenyl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazole-3-carboxylic acid (2-chloroethyl)amide are thus obtained in the form of a resin, the characteristics of which are as follows:

reactant | 1-hydroxybenzotriazole hydrate | 0.677 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.958 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-chloroethylamine hydrochloride | 1.16 g | Cl.ClCCN
reactant | 6,6-diphenyl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazole-3-carboxylic acid | 1.8 g | C1(=CC=CC=C1)C1(C=CC=2C(=NN(C2C1)COCC[Si](C)(C)C)C(=O)O)C1=CC=CC=C1 | C26H30N2O3Si
solvent | dichloromethane | 300 cm3 | ClCCl | CH2Cl2
solvent | triethylamine | 1.4 cm3 | C(C)N(CC)CC | C6H15N
product | 6,6-diphenyl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazole-3-carboxylic acid (2-chloroethyl)amide | 1.2 g | ClCCNC(=O)C1=NN(C=2CC(C=CC12)(C1=CC=CC=C1)C1=CC=CC=C1)COCC[Si](C)(C)C | C28H34ClN3O2Si
